US09079909B2
To a solution of ethyl 2-(5-acetamido-3-(3-fluorophenyl)-4-(phenylethynyl)-1H-pyrazol-1-yl)acetate (3.25 g, 8.02 mmol) in ethanol (90 mL) was added sodium borohydride (610 mg, 16.04 mmol) and the reaction stirred at room temperature for 36 h. Additional sodium borohydride was added (305 mg, 8.02 mmol) and the reaction stirred at room temperature for 3611.25% NaOH (0.9 mL) was added and the reaction mixture was stirred at 80° C. for 3.5 h. The reaction mixture was partitioned between ethyl acetate and water. The aqueous phase was washed with ethyl acetate twice and the organic phases combined, dried over MgSO4, filtered and evaporated. The crude material was suspended in diethylether (30 mL) and the product was filtered and dried in vacuo to give 2-(5-amino-3-(3-fluorophenyl)-4-(phenylethynyl)-1H-pyrazol-1-yl)ethanol as a white solid (2.2 g), which was used as such in the subsequent step.

reactant | ethyl 2-(5-acetamido-3-(3-fluorophenyl)-4-(phenylethynyl)-1H-pyrazol-1-yl)acetate | 8.02 mmol, 3.25 g | C(C)(=O)NC1=C(C(=NN1CC(=O)OCC)C1=CC(=CC=C1)F)C#CC1=CC=CC=C1 | C23H20FN3O3
reactant | sodium borohydride | 16.04 mmol, 610 mg | [BH4-].[Na+]
reactant | NaOH | 0.9 mL | [OH-].[Na+]
solvent | ethanol | 90 mL | C(C)O | C2H6O
product | 2-(5-amino-3-(3-fluorophenyl)-4-(phenylethynyl)-1H-pyrazol-1-yl)ethanol | 2.2 g | NC1=C(C(=NN1CCO)C1=CC(=CC=C1)F)C#CC1=CC=CC=C1 | C19H16FN3O
